US08623859B2
5-({[(2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)-N-[4-(4,5-dihydro-1H-imidazol-2-yl)benzyl]-N-methylfuran-3-carboxamide
5-({[(2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (51 mg, 0.14 mmol) was dissolved in DMF (1 mL) and CDI (34 mg, 0.21 mmol) was added. The mixture was stirred until acid activation was complete. 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylmethanamine.HCl (32 mg, 0.14 mmol) and DIPEA (0.074 mL, 0.42 mmol) were sonicated in DMF (0.5 mL) for 15 min. 0.5 mL of activated acid solution was added to 0.25 mL of amine solution and the reaction was stirred at ambient temperature for 18 h, then microwaved (120° C., 200 W) for 2×20 min. The reaction was concentrated, dissolved in DCM and washed with water (3×1.5 mL) and saturated brine (1 mL)). The organic layer was dried over MgSO4 and solvents were removed in vacuo. A portion of the crude product was purified using prep method A.

reactant | 5-({[(2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.14 mmol, 51 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O | C13H11Cl2NO5S
reactant | CDI | 0.21 mmol, 34 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylmethanamine | N1C(=NCC1)C1=CC=C(C=C1)CNC | C11H15N3
reactant | HCl | 0.14 mmol, 32 mg | Cl | ClH
reactant | DIPEA | 0.42 mmol, 0.074 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-({[(2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)-N-[4-(4,5-dihydro-1H-imidazol-2-yl)benzyl]-N-methylfuran-3-carboxamide | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)N(C)CC1=CC=C(C=C1)C=1NCCN1 | C24H24Cl2N4O4S
